Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Atorvastatin
 
Attending: ___.
 
Chief Complaint:
Flank pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with h/o renal tx in ___ who initially 
presented to an OSH ED with complaints of right flank pain that 
began last night.  She was treated emperically with Zosyn for a 
UTI and was subsequently transferred to ___. In the ___ ED, 
a renal US was obtained and this was significant for severe 
hydronephrosis, increased from ___. Her creatinine was 1.4 
(baseline ~1.3). Patient described her pain as being sharp and 
intermittent, radiating from her flank to her groin. She felt 
similar pain last ___ when she was admitted to ___ and 
diagnosed with UTI.  When she was seen in the ED, her pain was 
___. She denies any difficulty with urination and feels that 
she completely empties her bladder. Patient does endorse urinary 
frequency. Also complained of nausea and vomiting last night, 
but none today. 

Per report, a CT scan was obtained at the OSH that was negative 
for ureteral stone, but was consistent cholecystitis, and 
possible cystitis. 

In the ED here, initial vs were: 03:13 (unable) 98.6 72 ___ 99%. Labs were remarkable for creatinine of 1.4 (baseline 
1.3), UA with few bacteria and moderate leuks, but <1 WBC. 
Ultrasound of her renal transplant was notable for 
hydronephrosis. RUQ U/S was negative. She was given her 
immunosuppressants and antihypertensive medications. Foley 
catheter was placed and renal ultrasound s/p placement showed 
some improvement of hydronephrosis. Her pain improved, and she 
threatened to leave AMA. She was seen by both urology and 
transplant surgery, who felt that she should be admitted to 
medicine for monitoring. 
  
On the floor, she complains of some numbness over her 
transplanted kidney, but denies any additional pain. 
  

 
Past Medical History:
- ESRD unknown etiology (?post-infectious GN)  
- History of RLQ LRRT in ___ Sister was the donor  
- Hypertension  
- Hyperlipidemia  
- Left breast mass --> benign per biopsy 
- Iron deficiency anemia  
- H/o right arm intermediate-grade sarcoma and lymphedema s/p  
surgery and irradiation treatment  
- H/o herpes zoster in ___  
- Delusional disorder and paranoia
 
Social History:
___
Family History:
- no hx of kidney dz  
- father has DM  
- mother has HTN and high cholesterol  
- sister has high cholesterol  

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: 99.0, 117/86, 79, 18, 100%RA 
General: NAD, pleasant
HEENT:   sclera anicteric, amblyopia of right eye
Neck:   supple
CV:  RRR, no M/R/G
Lungs: CTAB
Abdomen: +BS, soft, minimally tender in RLQ over transplant
GU: foley in place, draining pale yellow urine
Ext:   2+ ___ pulses, WWP
Neuro: A+Ox3, CN ___ grossly intact
Psych: Peserverating about how her family abducted her and have 
poisoned her, are stalking her, are obtaining her mail and 
medical records. 

DISCHARGE PHYSICAL EXAM:
Vitals: 98.7, 148/89, 93, 18, 100%RA pain ___
General: NAD, pleasant
HEENT:   sclera anicteric, amblyopia of right eye
Neck:   supple
CV:  RRR, no M/R/G
Lungs: CTAB
Abdomen: +BS, soft, non-tender
Neuro: A+Ox3, CN ___ grossly intact

 
Pertinent Results:
ADMISSION LABS: 

___ 05:30AM   LACTATE-1.2
___ 05:15AM   rapamycin-7.5
___ 05:15AM   WBC-4.7 RBC-3.43* HGB-8.6* HCT-27.6* MCV-81* 
MCH-25.0* MCHC-31.0 RDW-13.7
___ 05:15AM   ___ PTT-31.1 ___
___ 04:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 04:20AM URINE  RBC-1 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-3

IMAGING: 
- RENAL ULTRASOUND S/P FOLEY ___: IMPRESSION: 
Interval mild improvement in hydronephrosis of the transplanted 
kidney, 
particularly at the lower pole, status post Foley catheter 
placement.  
Persistent blunting of the calices of the upper pole is not 
significantly 
changed since ___. 

- RENAL ULTRASOUND (___): IMPRESSION: 1.  Hydronephrosis of 
the transplanted kidney is not significantly changed compared 
with prior outside CT allowing for difference in techniques 
although significantly worsened from ___, suggesting 
ureteral obstruction.   2.  Patent renal arteries with normal 
waveforms.   

- RUQ U/S (___): IMPRESSION: No cholelithiasis or 
cholecystitis.

MICRO: 
-    URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

- Blood culture pending
 
Brief Hospital Course:
___ year old female with h/o renal tx in ___ who initially 
presented to an OSH ED with complaints of right flank pain for 1 
day. 

# Pyelnephritis: Patient presented with one day of pain over her 
transplant and numbness in this area as well. No fevers, chills, 
urinary symptoms. UA on presentaiton to the ED was not terribly 
impressive, and urine culture was consistent with skin flora. 
However, at OSH she had a CT abd/pel and report showed stranding 
around transplant and bladder, suggestive of pyelonephritis. 
Ultrasound of the transplanted kidney showed hydronephrosis 
which was somewhat improved after placement of a Foley cathter. 
Foley was left in place for decompression and she was 
empirically treated with ceftriaxone for pyelo. Following 
removal of the foley she was able to void normally, and her 
post-void residual was 12cc. She was treated with a total of 14 
days of antibiotics. She will see her outpaient renal team for 
follow-up. 

# Nausea/Vomiting: Had episodes of N/V over the weekend prior to 
admission, but no additional episodes during this 
hospitalization. She denies any dysphagia, but had a prior 
episode of ___ esophagitis in the ___. She may 
benefit from additional GI follow-up as an outpatient and 
consideration of EGD for additional evaluation if N/V returns or 
dysphagia develops. 
 
# Renal transplant: Patient is s/p transplant in ___ from 
living donor (sister). She was continued on MMF and rapamycin 
for immunosuppression. Her creatinine remained at her baseline 
during this admission.

CHRONIC ISSUES
# Hypertension: Continued diltiazem, lisinopril   

# Dillusional disorder, paranoia: Patient with prior deac 4 
admission for paranoia. She had previously been on risperidone 
but is no longer taking this. In the past she has felt that her 
sister (kidney donor) and mother are stalking her and 
impersonating her online, poisoning her and attempting to 
control her. This delusion was persistent during this admission, 
and psych and social work were consulted. Per their assessment 
she was safe for discharge home. 

TRANSITIONAL ISSUES: 
- She may benefit from additional GI follow-up as an outpatient 
and consideration of EGD for additional evaluation if N/V 
returns or dysphagia develops. 
- Given extent of delusional thinking she would likely benefit 
from outpatient psych follow-up, but she was not agreeable to 
this plan at the time of discharge. 
- Blood cultures pending at the time of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 120 mg PO DAILY 
please hold for SBP<90, HR<60 
2. Mycophenolate Mofetil 500 mg PO BID 
3. Sirolimus 1 mg PO DAILY 
Daily dose to be administered at 6am 
4. Lisinopril 10 mg PO DAILY 
please hold for SBP<90 

 
Discharge Medications:
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Mycophenolate Mofetil 500 mg PO BID 
4. Sirolimus 1 mg PO DAILY 
Daily dose to be administered at 6am 
5. Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Pyelonephritis

Secondary: hypetension, chronic kidney disease, paranoia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Miss ___, 

It was a pleasure taking care of you at ___ 
___. You were admitted for evaluation of your pain 
and treatment of your urinary infection. At the outside hospital 
you had a scan which showed that you have an infection in the 
kidney and bladder. You were treated with antibiotics and you 
improved. You will need to continue to take oral antibiotics 
going forward to make sure that your infection is completely 
treated. 
 
Followup Instructions:
___